US09163042B2
A solution of 4-bromo-2-fluoro-benzoyl chloride (2 g, 8.42 mmol) in dichloromethane (10.0 mL) was added drop-wise to a mixture of 2-methoxypyridin-4-amine (1.0 g, 8.42 mmol), pyridine (2.0 mL, 25.27 mmol) and dichloromethane (40.0 mL) at 0° C. The mixture was allowed to warm to room temperature and was stirred at that temperature overnight. The mixture was poured into 1N HCl (200 mL) and dichloromethane (200 mL). The layers were separated and the organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give 4-bromo-2-fluoro-N-(2-methoxy-4-pyridyl)benzamide (1.2 g, 44%) as an off-white solid. ESI-MS m/z calc. 323.99, found 325.1 (M+1)+; Retention time: 1.37 minutes (3 minutes run). 1H NMR (400 MHz, DMSO-d6) δ 10.80 (s, 1H), 8.11-8.06 (m, 1H), 7.79 (dd, J=9.8, 1.7 Hz, 1H), 7.68-7.62 (m, 1H), 7.59 (dd, J=8.3, 1.7 Hz, 1H), 7.23-7.18 (m, 2H), 3.84 (s, 3H) ppm.

reactant | 4-bromo-2-fluoro-benzoyl chloride | 8.42 mmol, 2 g | BrC1=CC(=C(C(=O)Cl)C=C1)F | C7H3BrClFO
reactant | 2-methoxypyridin-4-amine | 8.42 mmol, 1.0 g | COC1=NC=CC(=C1)N | C6H8N2O
reactant | pyridine | 25.27 mmol, 2.0 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40.0 mL | ClCCl | CH2Cl2
product | 4-bromo-2-fluoro-N-(2-methoxy-4-pyridyl)benzamide | 1.2 g, 44% | BrC1=CC(=C(C(=O)NC2=CC(=NC=C2)OC)C=C1)F | C13H10BrFN2O2
